US06294532B1
A mixture of 3-amino-1-propanol (650 μl, 8.4 mmol) and vinyl sulphone (1 g, 8.4 mmol) was heated at 110° C. for 45 minutes. The mixture was allowed to cool and was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 3-(1,1-dioxothiomorpholino)-1-propanol (800 mg, 90%).

reactant | 3-amino-1-propanol | 8.4 mmol, 650 μl | NCCCO | C3H9NO
reactant | vinyl sulphone | 8.4 mmol, 1 g | C(=C)S(=O)(=O)C=C | C4H6O2S
product | 3-(1,1-dioxothiomorpholino)-1-propanol | 800 mg, 90% | O=S1(CCN(CC1)CCCO)=O | C7H15NO3S
